US06476030B1
a) (2-Hydroxymethylpyridin-3-yloxy)acetonitrile
Potassium carbonate (8.57 g, 0.062 mol) was stirred in DMSO (30 ml) under nitrogen at room temperature for 20 min. The mixture was cooled to 0° C. and 3-hydroxy-2-(hydroxymethyl)pyridine hydrochloride (5.0 g, 0.031 mol) was added. The slurry was stirred at 0° C. for 1.5 h before the addition of chloroacetonitrile (1.96 ml, 2.34 g, 0.031 mol). The mixture was allowed to warm to room temperature and stirred under nitrogen for 72 h. Water (100 ml) was added, and the resultant solution was extracted with dichloromethane (3×100 ml), the organic layers were combined, washed with water (1×100 ml) and saturated sodium chloride solution (1×100 ml), dried over magnesium sulfate and concentrated in vacuo to give the title compound as a dark brown solid (3.04 g). 1H NMR (250 MHz, CDCl3) δ 4.77 (2H, s), 4.85 (2H, s), 7.26-7.30 (2H, m), 8.32 (1H, m); MS (ES+) m/e, 165 [MH]+.

reactant | Potassium carbonate | 0.062 mol, 8.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-2-(hydroxymethyl)pyridine hydrochloride | 0.031 mol, 5.0 g | Cl.OC=1C(=NC=CC1)CO
reactant | chloroacetonitrile | 0.031 mol, 1.96 ml, 2.34 g | ClCC#N | C2H2ClN
reactant | Water | 100 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | (2-Hydroxymethylpyridin-3-yloxy)acetonitrile | 3.04 g | OCC1=NC=CC=C1OCC#N | C8H8N2O2
